US04499087
45 g (0.13 mole) of N-benzyl-3-hydroxy-3-phenyl-4-phenoxybutylamine prepared as described in (c) were dissolved in 400 ml of ethanol, and 7.8 g of formic acid and 20 g of 35% strength formaldehyde solution were added in succession at the boiling point. After 3 hours, the alcohol was distilled off, 200 ml of 2N sodium hydroxide solution were added to the residue and the mixture was extracted with 3 times 2 ml of ether. The solution was dried and then evaporated down, the residue was taken up in 250 ml of acetic acid and the solution was hydrogenated in a shaken flask, using 5 g of palladium on carbon as the catalyst. When absorption of hydrogen was complete, the mixture was filtered, the filtrate was evaporated down, 2N sodium hydroxide solution was added and the mixture was extracted with 3 times 200 ml of ether. After the solvent had been distilled off, the product solidified. 22 g (65%) of N-methyl-3-hydroxy-3-phenyl-4-phenoxybutylamine of melting point 98°-99° C. were obtained.

reactant | N-benzyl-3-hydroxy-3-phenyl-4-phenoxybutylamine | 0.13 mole, 45 g | C(C1=CC=CC=C1)NCCC(COC1=CC=CC=C1)(C1=CC=CC=C1)O | C23H25NO2
reactant | formic acid | 7.8 g | C(=O)O | CH2O2
reactant | formaldehyde | C=O | CH2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-methyl-3-hydroxy-3-phenyl-4-phenoxybutylamine | 22 g, 65% | CNCCC(COC1=CC=CC=C1)(C1=CC=CC=C1)O | C17H21NO2
